US06699995B1
Methyl 2-(4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl)propionate
4-(4-chlorophenyl)-2-oxo-4-oxazoline (5.00 g) was suspended in acetonitrile (15 ml) in a reaction vessel, and the gas in the reaction vessel was substituted for nitrogen gas. The obtained suspension was cooled and conc. sulfuric acid (7.53 g) was added dropwise at 2-10° C. Then methyl acrylate (4.41 g) was added dropwise at 2-3° C. The obtained mixture was stirred at 20-30° C. for 1.5 h and methanol (15 ml) was added dropwise at 22-25° C. After cooling, water was added dropwise at 5-8° C. The precipitated crystals were collected by filtration, washed with water (25 ml), 1% aqueous sodium hydrogencarbonate (25 ml), water (25 ml) and diisopropyl ether (25 ml), and dried under reduced pressure at 40° C. for 7 h to give the title compound (5.72 g, yield 79.4%) as pale-red white crystals.

reactant | 4-(4-chlorophenyl)-2-oxo-4-oxazoline | 5.00 g | ClC1=CC=C(C=C1)C=1NC(OC1)=O | C9H6ClNO2
reactant | sulfuric acid | 7.53 g | S(O)(O)(=O)=O | H2O4S
reactant | methyl acrylate | 4.41 g | C(C=C)(=O)OC | C4H6O2
reactant | methanol | 15 ml | CO | CH4O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | Methyl 2-(4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl)propionate | 5.72 g, yield 79.4% | ClC1=CC=C(C=C1)C=1NC(OC1C(C(=O)OC)C)=O | C13H12ClNO4
